US09447090B2
To a mixture of 8.7 mg of 8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid, 5.1 mg of cyclopropylamine, 4.1 mg of 1-hydroxybenzotriazole, 1 ml of DMF, and 28 μl of diisopropylethylamine was added 50 mg of polystyrene N-cyclohexylcarbodiimide-N′-propyloxymethyl (PS-Carbodiimide manufactured by Biotage), followed by stirring at room temperature for 16 hours. Subsequently, 1 ml of DMF, 50 mg of macroporious triethylammonium methylpolystyrene carbonate (MP-Carbonate manufactured by Biotage) and 50 mg of polystyrene methyl isocyanate (PS-Isocyanate manufactured by Biotage), followed by stirring at room temperature for 3 hours. The resin of the reaction mixture was removed by filtration and the filtrate was concentrated under reduced pressure. The obtained residue was purified by preparative HPLC (high performance liquid chromatography) to obtain 8.7 mg of 8-(cyclohexylmethoxy)-N-cyclopropyl-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | 8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 8.7 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)O | C16H20N2O3
reactant | cyclopropylamine | 5.1 mg | C1(CC1)N | C3H7N
reactant | 1-hydroxybenzotriazole | 4.1 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 28 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Carbodiimide | N=C=N | CH2N2
reactant | triethylammonium | 50 mg | C(C)[NH+](CC)CC
reactant | Carbonate | C([O-])([O-])=O
reactant | Isocyanate | [N-]=C=O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 8-(cyclohexylmethoxy)-N-cyclopropyl-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 8.7 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)NC2CC2 | C19H25N3O2
